US09029545B2
3-[3-(Methyloxy)phenyl]thieno[2,3-b]pyridin-4(7H)-one
A mixture of 2,2-dimethyl-5-[({4-[3-(methyloxy)phenyl]-2-thienyl}amino)methylidene]-1,3-dioxane-4,6-dione (Description 41) (1.2 g, 3.34 mmol) and diphenyl ether (15 mL, 94 mmol) was heated at 220° C. for 1 h. After cooling to RT, the mixture was purified by chromatography on silica, eluting with a gradient of 0-100% ethyl acetate in DCM, to give the title compound (487 mg). LCMS (A) m/z: 258 [M+1]+, Rt 0.93 min (acidic).

reactant | 2,2-dimethyl-5-[({4-[3-(methyloxy)phenyl]-2-thienyl}amino)methylidene]-1,3-dioxane-4,6-dione | 3.34 mmol, 1.2 g | CC1(OC(C(C(O1)=O)=CNC=1SC=C(C1)C1=CC(=CC=C1)OC)=O)C | C18H17NO5S
reactant | diphenyl ether | 94 mmol, 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-[3-(Methyloxy)phenyl]thieno[2,3-b]pyridin-4(7H)-one | 487 mg | COC=1C=C(C=CC1)C1=CSC=2NC=CC(C21)=O | C14H11NO2S
